US04776876
6-benzylthio-pyridine-2,3-dicarboxylic acid anhydride
8.5 g (0.029 mol) 6-benzylthiopyridine-2,3-dicarboxylic acid are stirred into 150 ml acetanhydride 6 hours at 110° C. The substrate thereby dissolves completely. The solvent is distilled off in a vacuum and the residue is employed in the next stage without further purification.

reactant | 6-benzylthiopyridine-2,3-dicarboxylic acid | 0.029 mol, 8.5 g | C(C1=CC=CC=C1)C1=CC=C(C(=N1)C(=S)O)C(=O)O | C14H11NO3S
solvent | acetanhydride | 150 ml | CC(=O)OC(=O)C | C4H6O3
product | 6-benzylthio-pyridine-2,3-dicarboxylic acid anhydride | C(C1=CC=CC=C1)C1=CC=C2C(=N1)C(=S)OC2=O | C14H9NO2S
